US07112682B2
To the 1H-indol-1-amine solution prepared in accordance with the procedures set forth in Example 6 in a 150-gal steel reactor, under nitrogen purge, slight exhaust, agitation ca. 150 rpm, at 10–25° C. (preferably 10–18° C.) and with slow jacket cooling, charge approximately 21.6 kg acetic acid to pH 3.9–4.0 (0.1 mL of the reaction mixture in 5 mL water) at a rate of ca. 1 kg/min. Charge incrementally more HOAc if needed to attain the pH level. Rinse pump with ca. 2 L NMP. Charge 10.8 L water (a slight temperature rise of about 3–6° C. is expected), essentially in one portion (ca. 1 min addition time). Charge 14.4 kg (13.9 kg corrected for 97% purity) propionaldehyde at ca. 0.8 kg/min (0.5–1.0 kg/min) while maintaining 10–24° C., preferably 10–20° C. A mild exotherm is expected. Depending on the rate of addition and cooling, expect about a 5° C. temperature rise. Rinse pump with ca. 3 L NMP. Agitate at 10–24° C., preferably 17–20° C., until the reaction is judged complete as evidenced by the HPLC assay, conditions of which are detailed further below (>99% conversion in 2–3 h). Monitor the progress of the reaction by withdrawing samples of the reaction mixture for HPLC assays. When the reaction is judged complete, prepare for a vacuum distillation directly from the reactor to a suitable receiver. Expect a forerun (ca. 45–50 L) of volatiles including tert-butanol and water initially at 50–70° C. and ca. 30–40 mm pressure. As the distillation rate slows, gradually increase the pot temperature to 95–100° C. and reduce the pressure to 5–25 mm and begin collecting NMP. Collect a total of about 320 kg distillates (to give a pot weight of 9.5 parts w/w with respect to the initial indole charge), then release the vacuum with nitrogen and cool to 10–25° C. If necessary, or for convenience of scheduling, the distillation can be interrupted at any time, by releasing the vacuum with nitrogen, cooling to <30° C., storing under nitrogen, and then restarting as required. Work up the reaction by charging 133 L heptane followed by, with chilled water cooling to keep exotherm temperature below 30° C., 234 L water through a reactor charging nozzle (maximum process volume of ca. 450 L is attained). Agitate for >10 min, then separate the phases. Extract the bottom aqueous phase with 54 L heptane. Combine the organic extracts, and wash with aqueous potassium bicarbonate solution (prepared from 0.6 kg potassium bicarbonate dissolved in 58 L (58–95 L) water) followed by a 58 L water wash. Concentrate the organic phase to obtain crude N-propylidene-1H-indol-1-amine as an oil. Purify by short path distillation, first pass to remove volatiles at ca. 120° C. evaporator and ca. 200–800 mbar pressure, and then a second pass at 110° C. evaporator and 0.2–0.4 mbar pressure to collect purified product.

reactant | 1H-indol-1-amine | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | water | 234 L | O | H2O
solvent | heptane | 133 L | CCCCCCC | C7H16
product | N-propylidene-1H-indol-1-amine | C(CC)=NN1C=CC2=CC=CC=C12 | C11H12N2
